US07666888B2
5-Cyclopropylisoxazole-4-carboxylic acid
Methyl 3-cyclopropyl-3-oxopropanoate (0.28 g, 2 mmol) and 1,1-dimethoxy-N,N-dimethylmethanamine (0.24 g, 2 mmol) was mixed and heated for 20 h at 60° C. The bright yellow oil was dissolved in methanol (2 mL) and H2O (1 mL) and hydroxylamine hydrochloride (0.14 g, 2 mmol) was added, resulting in a pH of ca 5. The reaction was heated for 90 min at 60° C. The solvents were evaporated and the residue refluxed in acetic acid: conc. HCl (3+3 mL) for 4 h. The mixture was stored at room temperature for 2 days and the solid was filtered off and dried in vacuum to yield the title compound as a grey solid. This compound is also commercially available. 1H NMR (400 MHz, CHLOROFORM-D) δ ppm 1.18-1.28 (m, 2 H) 1.28-1.35 (m, 2 H) 2.78-2.90 (m, 1 H) 8.45 (s, 1 H)

reactant | Methyl 3-cyclopropyl-3-oxopropanoate | 2 mmol, 0.28 g | C1(CC1)C(CC(=O)OC)=O | C7H10O3
reactant | 1,1-dimethoxy-N,N-dimethylmethanamine | 2 mmol, 0.24 g | COC(N(C)C)OC | C5H13NO2
reactant | H2O | 1 mL | O | H2O
reactant | hydroxylamine hydrochloride | 2 mmol, 0.14 g | Cl.NO
solvent | methanol | 2 mL | CO | CH4O
product | 5-Cyclopropylisoxazole-4-carboxylic acid | C1(CC1)C1=C(C=NO1)C(=O)O | C7H7NO3
